US08895745B2
Step (c) 3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid hydrazide
To a suspension of Methyl-3-Iodo-imidazo[1,2-a]pyridine-7-carboxylate (0.4 g, 1.32 mmol) in MeOH (6 ml) was added hydrazine hydrate (0.25 ml, 5.28 mmol). The mixture was refluxed for 4 h then further hydrazine hydrate (0.25 ml, 5.28 mmol) was added, the mixture heated o/n, allowed to cool, solid was filtered off and washed with MeOH and dried to afford 0.36 g of product. MS: [M+H]+ 303.

reactant | Methyl-3-Iodo-imidazo[1,2-a]pyridine-7-carboxylate | 1.32 mmol, 0.4 g | COC(=O)C1=CC=2N(C=C1)C(=CN2)I | C9H7IN2O2
reactant | hydrazine hydrate | 5.28 mmol, 0.25 ml | O.NN
reactant | hydrazine hydrate | 5.28 mmol, 0.25 ml | O.NN
solvent | MeOH | 6 ml | CO | CH4O
product | 3-Iodo-imidazo[1,2-a]pyridine-7-carboxylic acid hydrazide | 0.36 g | IC1=CN=C2N1C=CC(=C2)C(=O)NN | C8H7IN4O
